Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fatigue, SOB
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with a PMH notable for
hemochromatosis who presents with dyspnea and hemoptysis.

Per ___ records, the patient went to his PCP's office on
___ for evaluation of myalgias, fever, and chill. At the
time, he reported no nasal congestion, sore throat, or cough, 
but
he did mention having hemoptysis. He had crackles in the left
lung base, and was diagnose with a possible pneumonia. He was
given a prescription for doxycycline 200 mg on day 1, then 100 
mg
daily for 9 days.

He reports to me that his symptoms started acutely the evening 
of
___ with fevers, chills, and diffuse whole body pain.
Notably, he didn't have any cough or congestion. The symptoms
continued until ___, when he started having small amounts 
of
scant, bright red hemoptysis. After he was seen in the office, 
he
started taking doxycycline with some mild improvement. However,
he still felt extremely fatigued, and therefore, came into the 
ED
for further evaluation. He denies having chest pain, nausea,
abdominal pain, diarrhea, or rashes.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative.

                       
 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
HEMOCHROMATOSIS
have not seen a doc for a year; moved back from ___ last
treatment ? in ___ in ___ has seen GI ___ for
the ___ mutation for hemochromatosis. He had a liver biopsy on
___ noting minimal portal mononuclear cell inflammation,
minimal lobular mononuclear cell inflammation with a rare
apoptotic hepatocyte; no steatosis or hyaline identified, 
minimal
increase in portal fibrosis seen on trichrome stain and moderate
iron deposition, predominantly involving periportal and 
mid-zonal
hepatocytes identified on iron stain.
DEPRESSION
seeing psych Dr. ___ at ___ hx of hospitalization
in ___ due to alcoholism and depression
ANXIETY
not controlled has had panic attacks while drinking but also,
since sober seeing psych for that
ALCOHOL USE
sober since ___
EYE SURGERY
OS ,lazy eye in childhood
SKIN MOLES
has seen derm
LOW BACK PAIN
ANKLE SPRAIN
b/l ; has pain off-on
HERPES ZOSTER
R side of trunk in the 90 th
 
Social History:
___
Family History:
FAMILY HISTORY:
Mother and two siblings have depression. Father had CAD and
hemochromatosis.
 
Physical Exam:
VITALS: ___ ___ Temp: 98.2 PO BP: 102/65 HR: 63 RR: 16 O2
sat: 97% O2 delivery: RA Dyspnea: 4 RASS: 0 Pain Score: ___ 
GENERAL: Fatigued appearing, in mild distress.
EYES: Anicteric, normal conjunctivae. Pupils equally round.
ENT: Ears and nose without visible erythema, masses, or trauma.
Oropharynx without visible lesion, erythema or exudate.
CV: Heart regular, no murmur, no S3, no S4. No peripheral edema.
RESP: Lungs with decreased air movement throughout the entire
lung fields, no breath sounds in the left lower base. Breathing
is mildly labored.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. Live edge felt 2 cm below rib margin. No
splenomegaly.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.
SKIN: No rashes or ulcerations noted.
NEURO: Face symmetric, gaze conjugate with EOMI, speech fluent.
Sensation to light touch grossly intact throughout.
PSYCH: Good insight and judgment. Alert and oriented. Normal
memory. Pleasant affect.

Discharge exam:
VITALS:VSS and reviewed in eflow sheet.
 98.0
PO 119 / 74
R Lying 64 16 97 RA    
GENERAL: comfortable, breathing at normal rate, speaking in full 
sentences. 
EYES: Anicteric, normal conjunctivae. Pupils equally round.
ENT: Ears and nose without visible erythema, masses, or trauma.
Oropharynx without visible lesion, erythema or exudate.
CV: Heart regular, no murmur, no S3, no S4. No peripheral edema.
RESP: b/l ae no w/c/r, decreased bs L.base.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.
SKIN: No rashes or ulcerations noted.
NEURO: Face symmetric, gaze conjugate with EOMI, speech fluent.
Sensation to light touch grossly intact throughout.
PSYCH: Good insight and judgment. Alert and oriented. Normal
memory. Pleasant affect.

 
Pertinent Results:
___ 08:01AM BLOOD WBC-5.9 RBC-3.77* Hgb-12.1* Hct-35.2* 
MCV-93 MCH-32.1* MCHC-34.4 RDW-13.6 RDWSD-46.4* Plt ___
___ 02:50PM BLOOD WBC-6.6 RBC-3.91* Hgb-12.6* Hct-36.5* 
MCV-93 MCH-32.2* MCHC-34.5 RDW-13.5 RDWSD-46.0 Plt ___
___ 12:30AM BLOOD WBC-6.7 RBC-3.68* Hgb-11.9* Hct-33.9* 
MCV-92 MCH-32.3* MCHC-35.1 RDW-13.3 RDWSD-45.3 Plt ___
___ 08:01AM BLOOD Glucose-92 UreaN-17 Creat-0.5 Na-141 
K-3.5 Cl-103 HCO3-25 AnGap-13
___ 12:30AM BLOOD Glucose-107* UreaN-22* Creat-0.9 Na-132* 
K-3.7 Cl-95* HCO3-20* AnGap-17
___ 12:30AM BLOOD ALT-16 AST-26 AlkPhos-57 TotBili-0.3
___ 12:30AM BLOOD Lipase-13
___ 08:01AM BLOOD Phos-2.8 Mg-2.0
___ 02:50PM BLOOD Phos-3.2 Mg-2.3
___ 12:30AM BLOOD Albumin-2.8* Calcium-8.1* Phos-3.7 Mg-2.0

CTA chest:
IMPRESSION:  
No evidence of pulmonary embolism or acute aortic abnormality.  
Large, dense focal consolidation with air bronchograms in the 
left lower lobe suggestive of acute lobar pneumonia with an 
associated small left parapneumonic pleural effusion.  Multiple 
ground-glass opacities within the lingula and right upper/middle 
lobes may represent additional foci of inflammation/infection. 

CXR
IMPRESSION:  
Large, left lower lobe pneumonia. 

___ 08:30AM BLOOD WBC-6.1 RBC-3.78* Hgb-12.2* Hct-35.3* 
MCV-93 MCH-32.3* MCHC-34.6 RDW-13.3 RDWSD-45.8 Plt ___
___ 08:30AM BLOOD K-3.8
___ 08:01AM BLOOD Glucose-92 UreaN-17 Creat-0.5 Na-141 
K-3.5 Cl-103 HCO3-25 AnGap-13
___ 6:31 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      Reported to and read back by ___ @ 0010 ON 
___ -
      ___. 
      PRESUMPTIVE POSITIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
             (Reference Range-Negative). 
         Performed by Immunochromogenic assay. 
         Clinical correlation and additional testing suggested 
including
         culture and detection of serum antibody. 

bcx NGTD
ucx: negative 
 
Brief Hospital Course:
Mr. ___ is a ___ male with hemochromatosis who
presents with dyspnea and hemoptysis, found to have a large left
lower lobe pneumonia.

ACUTE/ACTIVE PROBLEMS:
# Acute Hypoxemic Respiratory Failure
# Legionella PNA with hemoptysis
Desaturated to ___ on RA in ED, and required 4L 02. On CT and 
CXR he was found to have a large consolidation and clinically he 
had associated hemoptysis. He was prescribed doxycycline as an 
outpt and failed this regimen. Ulegionella was POSITIVE. Pt was 
initially treated with IV ctx/azith and converted to PO 
levofloxacin when legionella returned. He was rapidly weaned to 
room air and did not have any ambulatory desaturations. 
Hemoptysis improved and HCT stable.  He was prescribed 
levofloxacin for a 7 day course. 

# Hyponatremia
Mild and asymptomatic. Related to pneumonia. Resolved. 

# Anemia
New since ___, most likely related to acute infection. Not
enough blood loss suggested by history of hemoptysis. Stable. 
Outpt f/u. 

# Nicotine Dependence-nicotine patch 14 mg daily, prescribed at 
discharged. Discussed with pt the need to limit/stop smoking 
cigarettes and marijuana especially with his current pneumonia 
and respiratory issues. 

CHRONIC/STABLE PROBLEMS:
# Depression-held home citalopram in the setting of taking 
levoflox to
avoid QTc prolongation

Time spent on dc related activities >30 min

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 30 mg PO DAILY 
2. Doxycycline Hyclate 100 mg PO DAILY 
3. Sildenafil 50 mg PO ASDIR 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*5 
Tablet Refills:*0 
2.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour 1 patch daily Disp #*30 Patch 
Refills:*0 
3.  Sildenafil 50 mg PO ASDIR  
4. HELD- Citalopram 30 mg PO DAILY  This medication was held. Do 
not restart Citalopram until you finish your levofloxacin in 
case of a potential drug interaction. Please call your doctor if 
you experience any signs of withdrawal or depression during this 
time. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
legionella pneumonia
hemoptysis
tobacco use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted or evaluation of fatigue and coughing up 
blood. You had a CT and CXR that revealed a large left sided 
pneumonia. You also had testing that was positive for 
legionella. Therefore, you were treated with antibiotics for 
legionella pneumonia. You will need a few more days of 
antibiotics after discharge. You will need a repeat CXR or CT 
scan after you are treated for your pneumonia to ensure it has 
resolved. 
Please try to stop smoking cigarettes and marijuana as this is 
not good for your lungs, especially with a pneumonia. You were 
prescribed a nicotine patch in case you would like this to 
assist with stopping smoking. 
 
Followup Instructions:
___